US07125901B2
To a suspension of 4-{[2-(acetylamino)-4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-1,3-thiazol-5-yl]methyl}benzoic acid (50 mg) in toluene (0.5 ml) and dioxane (0.5 ml) were added triethylamine (28.1 μl) and diphenylphosphoryl azide (39.1 μl), and the mixture was stirred at 25° C. for 2 hrs., then stirred at 100° C. for 1 h. To the reaction mixture was added methanol (1 ml), and the mixture was refluxed for 2 hrs., and concentrated in vacuo. The residue was purified by preparative thin-layer chromatography over silica gel with chloroform/methanol (20:1) as an eluent to give methyl N-(4-{[2-(acetylamino)-4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-1,3-thiazol-5-yl]methyl}phenyl)carbamate (17.2 mg).

reactant | 4-{[2-(acetylamino)-4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-1,3-thiazol-5-yl]methyl}benzoic acid | 50 mg | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C=C1)NC(=O)OC(C)(C)C)CC1=CC=C(C(=O)O)C=C1 | C26H29N3O5S
reactant | triethylamine | 28.1 μl | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 39.1 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | methanol | 1 ml | CO | CH4O
reactant | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
solvent | toluene | 0.5 ml | C1(=CC=CC=C1)C | C7H8
product | methyl N-(4-{[2-(acetylamino)-4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-1,3-thiazol-5-yl]methyl}phenyl)carbamate | 17.2 mg | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C=C1)NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)NC(OC)=O | C27H32N4O5S
